US06140512
Under an argon atmosphere, triethylamine (324 ml, 2.32 mmol) and methanesulfonyl chloride (132 ml, 1.70 mmol) were added to a solution of (6S)-(-)-methyl 6,8dihydroxyoctanoate (147 mg, 0.77 mmol) in dichloromethane (3.9 ml) at 0° C. The mixture was stirred at 0° C. for 30 min, then quenched with ice water (10 ml) and extracted with dichloromethane (10 ml). The extract was washed with 2 M hydrochloric acid (10 ml), saturated sodium bicarbonate solution (10 ml) and brine (10 ml). The organic phase was dried over magnesium sulphate and the solvent was evaporated under reduced pressure to give the crude product which was purified using flash column chromatography with hexane-ethyl acetate (2:3) to give (6S)-(+)-methyl 6,8-bis(methylsulfonyloxy)octanoate (247 mg, 92% yield) as a clear yellow oil. Rf 0.30 (hexane-ethyl acetate, 3:2).

reactant | triethylamine | 2.32 mmol, 324 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.70 mmol, 132 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | (6S)-(-)-methyl 6,8dihydroxyoctanoate | 0.77 mmol, 147 mg | O[C@@H](CCCCC(=O)OC)CCO | C9H18O4
solvent | dichloromethane | 3.9 ml | ClCCl | CH2Cl2
product | (6S)-(+)-methyl 6,8-bis(methylsulfonyloxy)octanoate | 247 mg, 92% yield | CS(=O)(=O)O[C@@H](CCCCC(=O)OC)CCOS(=O)(=O)C | C11H22O8S2
